US07378409B2
A solution of (cis-4-amino-cyclohexyl)-carbamic acid tert-butyl ester (1.8 g, 8.3 mmol) in MeOH (20 mL) was charged with acetone (2 mL), stirred for 10 minutes, charged with NaCNBH3 (1.6 g, 24.9 mmol), stirred for 3 h, charged with formaldehyde (1 mL of a 37% aq. Solution), stirred for 1.5 h, and then concentrated in vacuo. The residue was dissolved in EtOAc and the solution was washed successively with water and brine before being dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified via flash chromatography to afford [cis-4-(isopropyl-methyl-amino)-cyclohexyl]-carbamic acid tert-butyl ester (1.4 g, 62% yield). MS found: (M+H)+=271.3.

reactant | (cis-4-amino-cyclohexyl)-carbamic acid tert-butyl ester | 8.3 mmol, 1.8 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N)=O | C11H22N2O2
reactant | acetone | 2 mL | CC(=O)C | C3H6O
reactant | NaCNBH3 | 24.9 mmol, 1.6 g | [BH3-]C#N.[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | MeOH | 20 mL | CO | CH4O
product | [cis-4-(isopropyl-methyl-amino)-cyclohexyl]-carbamic acid tert-butyl ester | 1.4 g, 62% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N(C)C(C)C)=O | C15H30N2O2
